datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[O:2])[O:3][O:4][H:15])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([H:17])[H:18])[H:16])([H:12])([H:13])[H:14],74.0568
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[H:7]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][H:7],-5.4392
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]=[C:5]([H:10])[H:11])[H:6].[C:12]([C:13]([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]=[C:5]([H:10])[H:11])[C:13]([C:12]([H:21])([H:22])[H:23])([C:14]([H:24])([H:25])[H:26])[c:15]1[c:16]([H:27])[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]1[H:31])[H:6],46.9026
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:8])([H:14])[H:15])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:9])[H:10],83.68
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[c:19]1[c:20]([H:31])[c:21]([H:32])[c:22]([H:33])[c:23]([H:34])[c:24]1[H:35])[H:8],30.5014
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[O:9]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[O:9],-8.368
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:26])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:20]([C:19](=[C:18]([H:24])[H:25])[H:26])([C:21]([H:27])([H:28])[H:29])[C:22](=[C:23]([H:31])[H:32])[H:30])[H:10])([H:8])[H:9],55.6054
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:8])([H:6])[H:7],0.54392
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[O:8][H:9]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][O:8][H:9],6.635824
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([C:6]([H:14])[H:15])([H:12])[H:13])[H:11])[H:7]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]1([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:7],23.8488
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],33.1373
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24](=[C:25]([C:26]([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])([H:18])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27]([H:32])([H:33])[H:34])[C:28]([H:35])([H:36])[H:37])[H:14])([H:12])[H:13],38.451
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:17])([H:18])[H:19])([c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])[H:20])([H:3])[H:4],43.4299
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([H:13])([H:14])[H:15])[C:9]([H:16])([H:17])[H:18])[H:4],21.5476
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:8](=[C:9]([H:11])[H:12])[H:10])[H:4],11.1713
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][O:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:9])([H:10])[H:11].[H:12][O:29][O:30],199.11656
